US07781438B2
To a solution of 4-chloroaniline (9.59 g, 75.2 mmol) in dioxane (112 mL) was added a 6 M aqueous solution of HCl (180 mL). The reaction mixture was heated to 100° C. and a solution of 2-methyl-2-propene-1,1-diol acetate (15.5 g, 90.3 mmol) in dioxane (20 mL) was added dropwise during 1 h under an argon atmosphere. The reaction mixture was stirred for 2 h at 120° C. after which an aliquot was taken and analyzed by HPLC. Since some starting material was still left, the reaction mixture was cooled down to 100° C. and another portion of 2-methyl-2-propene-1,1-diol actetate (5.2 g, 30 mmol) was added during 1 h. After heating for 2 h at 120° C., the reaction mixture was cooled down again to 100° C. and a final portion of 2-methyl-2-propene-1,1-diol actetate (5.2 g, 30 mmol) was added during 1 h at 100° C. Heating was continued for 30 min. at 120° C. After cooling to ambient temperature the reaction mixture was diluted with water (100 mL) and extracted with 2-methoxy-2-methylpropane (2×200 mL). The combined organic phases were extracted with a 4 M HCl solution (100 mL). The combined aqueous phases were basified to pH 9 with a 4 M NaOH solution and extracted with TBME (3×200 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated at reduced pressure to afford a brown oil. The crude product was purified by flash column chromatography (silica gel, cyclohexane/EtOAc 95:5) to afford 6-chloro-3-methylquinoline as a pale brown crystalline solid (6.32 g, 35.6 mmol, 47%). 1H NMR (400 MHz, CDCl3, 298 K): δ=8.78 (d, J=2.2 Hz, 1H), 8.03 (d, J=8.8 Hz, 1H), 7.86 (bs, 1H), 7.75 (d, J=2.2 Hz, 1H), 7.60 (dd, J=8.8 Hz, 2.2 Hz, 1H), 2.55 (s, 3H). MS (ES+): 178 (M(C10H835ClN)+H)+.

reactant | 4-chloroaniline | 75.2 mmol, 9.59 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | HCl | 180 mL | Cl | ClH
reactant | 2-methyl-2-propene-1,1-diol acetate | 90.3 mmol, 15.5 g | C(C)(=O)OC(C(=C)C)O | C6H10O3
reactant | 2-methyl-2-propene-1,1-diol | CC(C(O)O)=C | C4H8O2
solvent | dioxane | 112 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
product | 6-chloro-3-methylquinoline | 35.6 mmol, 6.32 g, 47% | ClC=1C=C2C=C(C=NC2=CC1)C | C10H8ClN
